US05194423
To a 500 ml autoclave, 50 g (0.23 mol) of 1-(2-tertbutylphenyloxy)-2-butanol, 150 g of isopropanol and 1.0 g of 5 weight % palladium catalyst supported on active carbon containing 50 weight % water (produced by N. E. Chemcat Co.) were added, and the mixture obtained was reacted at 190° C. at a hydrogen pressure of 70 kg/cm2 for 27 hours until absorption of hydrogen had stopped. After the reaction was finished, the catalyst was filtered to remove it, and the reacted solution was distilled and 38.8 g of 1-(2-tert-butylcyclohexyloxy)-2-butanol (cis:trans=63:37) were obtained in a 74% yield of product.

reactant | 1-(2-tertbutylphenyloxy)-2-butanol | 0.23 mol, 50 g | C(C)(C)(C)C1=C(C=CC=C1)OCC(CC)O | C14H22O2
reactant | isopropanol | 150 g | C(C)(C)O | C3H8O
reactant | hydrogen | [H][H] | H2
catalyst | palladium | [Pd] | Pd
solvent | water | O | H2O
product | 1-(2-tert-butylcyclohexyloxy)-2-butanol | 38.8 g | C(C)(C)(C)C1C(CCCC1)OCC(CC)O | C14H28O2
